US05523302
1a) 3'-(2-Hydroxyethoxy)acetophenone
3'-Hydroxyacetophenone (5.0 g, 37 mmol), potassium carbonate (6.1 g, 44 mmol), sodium iodide (0.28 g, 1.8 mmol), and 2-bromoethanol (2.6 mL, 37 mmol) were stirred in N,N-dimethylformamide (DMF) for 20 h at room temperature, then for 4 days at 70°-80° C. The reaction mixture was diluted with ethyl acetate (EtOAc) and extracted several times with water, then dried over magnesium sulfate (MgSO4), and concentrated in vacuo. Chromatography on silica gel, eluting with 30% to 50% EtOAc in hexanes, after solvent removal, gave a viscous oil (2.1 g). 1H-NMR(300 MHz, CDCl3): 7.56(d, 1H, J=8 Hz), 7.51(s, 1H), 7.39(t, 1H, J=8 Hz), 7.14(d, 1H, J=8 Hz), 4.14 (m, 2H), 3.99 (m, 2H), 2.60 (s, 3H), 2.09 (br, 1H).

reactant | 3'-Hydroxyacetophenone | 37 mmol, 5.0 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | potassium carbonate | 44 mmol, 6.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.8 mmol, 0.28 g | [I-].[Na+]
reactant | 2-bromoethanol | 37 mmol, 2.6 mL | BrCCO | C2H5BrO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3'-(2-Hydroxyethoxy)acetophenone | 2.1 g | OCCOC=1C=C(C=CC1)C(C)=O | C10H12O3
